US05173489
9,9-Bis(4-pyridinylmethyl)-2-methoxyfluorene dihydrochloride
The title compound was prepared following the procedure of Example 5 from 1.8 g (9.2 mmole) of 2-methoxyfluorene, 3.0 g of 4-picolylchloride.HCl, 20 ml of 50% NaOH, 100 mg of cetyl Bu3PBr, and 30 ml of toluene by reaction at 50° for 6 hrs. The material was chromato-graphed to yield 1.6 g of product. δ: 3.37(s,4H), 3.89(s,3H), 6.52(broad,4H), 6.80(m,1H), 7.01(d,J=2.1Hz,1H), 7.26(m,5H), 7.45(d,J=7.5Hz,1H), 8.11(broad,4H).

reactant | 2-methoxyfluorene | 9.2 mmole, 1.8 g | COC1=CC=2CC3=CC=CC=C3C2C=C1 | C14H12O
reactant | 4-picolylchloride | 3.0 g | N1=CC=C(C=C1)CCl | C6H6ClN
reactant | HCl | Cl | ClH
reactant | NaOH | 20 ml | [OH-].[Na+]
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 9,9-Bis(4-pyridinylmethyl)-2-methoxyfluorene dihydrochloride | Cl.Cl.N1=CC=C(C=C1)CC1(C2=CC=CC=C2C=2C=CC(=CC12)OC)CC1=CC=NC=C1 | InChI=1S/C26H22N2O.2ClH/c1-29-21-6-7-23-22-4-2-3-5-24(22)26(25(23)16-21,17-19-8-12-27-13-9-19)18-20-10-14-28-15-11-20;;/h2-16H,17-18H2,1H3;2*1H
